US04960758
VI (a) Preparation of 3-(2-methoxybenzoyl)benzonitrile
30 g (0.16 mol) of 2-bromoanisole are added dropwise to a mixture of 3.85 g (0.16 mol) of magnesium, containing a crystal of iodine, in 75 ml of anhydrous tetrahydrofuran and the reaction mixture is then refluxed for 1 hour. The resulting solution is then added dropwise to a solution of 26.48 g (0.16 mol) of 3-cyanobenzoyl chloride in 75 ml of anhydrous tetrahydrofuran, cooled to -75° C. The temperature is allowed to rise to 20° C., the reaction medium is hydrolyzed with a 1N aqueous solution of hydrochloric acid and the expected product is then extracted with ethyl acetate. The organic phase obtained is washed with water, dried over magnesium sulfate and then evaporated under reduced pressure. 30 g of the expected product (yield: 80%) are obtained in the form of crystals.

reactant | 2-bromoanisole | 0.16 mol, 30 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | 0.16 mol, 3.85 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-cyanobenzoyl chloride | 0.16 mol, 26.48 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-(2-methoxybenzoyl)benzonitrile | 30 g, yield: 80% | COC1=C(C(=O)C=2C=C(C#N)C=CC2)C=CC=C1 | C15H11NO2
